US06194425B1
Using the general method of Example 73 Part A and Part B, N4-(2-phenoxyethyl)[1,5]naphthyridine-3,4-diamine (4.4 g, 15.7 mmol) was reacted with valeryl chloride (1.95 mL, 16.4 mmol) and the resulting amide intermediate was cyclized to provide 4.0 g of 2-(2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl phenyl ether as a white solid, m.p. 150-150.5° C. Analysis: Calculated for C21H22N4O: % C, 72.81; % H, 6.40; % N, 16.17; Found: % C, 72.78; % H, 6.40; % N, 16.31. 1H NMR (300 MHz, DMSO): δ 9.25 (s, 1H), 9.00 (dd, J=4.3,1.7 Hz, 1H), 8.52 (dd, J=8.4,1.7 Hz, 1H), 7.74 (dd, J=8.4,4.3 Hz, 1H), 7.25-7.20 (m, 2H), 6.91-6.84 (m, 3H), 5.22 (t, J=5.2 Hz, 2H), 4.53 (t, J=5.2 Hz, 2H), 3.09 (t, J=7.7 Hz, 2H), 1.91 (pentet, J=7.6 Hz, 2H), 1.55-1.43 (m, 2H), 0.97 (t, J=7.3 Hz, 3H); MS (EI): m/e 346.1794 (346.1793 calc'd for C21H22N4O).

reactant | N4-(2-phenoxyethyl)[1,5]naphthyridine-3,4-diamine | 15.7 mmol, 4.4 g | O(C1=CC=CC=C1)CCNC1=C(C=NC2=CC=CN=C12)N | C16H16N4O
reactant | valeryl chloride | 16.4 mmol, 1.95 mL | C(CCCC)(=O)Cl | C5H9ClO
product | 2-(2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl phenyl ether | 4.0 g | C1(=CC=CC=C1)OCCN1C(=NC=2C=NC=3C=CC=NC3C21)CCCC | C21H22N4O
